US05635527
1H-NMR (CDCl3) δTMS : 4.20(s,4H), 3.98(s,2H), 3.49-3.23(m,1H), 2.84(s,6H), 2.88-2.75(m,1H), 2.18-2.06(m,2H), 2.06-1.93(m,2H), 1.47(s,9H), 1.44-1.16 (m,4H) trans-5-[4-[(t-Butoxycarbonyl)methyloxy]cyclohexyl]-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine (300 mg, 0. 879 mmol) was dissolved in t-butanol (5 ml) and a saturated aqueous ammonium chloride solution (5 ml) was added, which was followed by refluxing under heating for 2 hours. The reaction mixture was adjusted to pH 10 with a 1N aqueous sodium hydroxide solution and extracted with benzene. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (methylene chloride/methanol=10/1-5/1) to give 130 mg of t-butyl trans-(4-aminocyclohexyloxy)acetate as a colorless solid (57%).

reactant | trans-5-[4-[(t-Butoxycarbonyl)methyloxy]cyclohexyl]-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine | 879 mmol, 300 mg | C(C)(C)(C)OC(=O)CO[C@@H]1CC[C@H](CC1)N1CN(C(N(C1)C)=O)C | C17H31N3O4
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
product | t-butyl trans-(4-aminocyclohexyloxy)acetate | 130 mg, 57% | N[C@@H]1CC[C@H](CC1)OCC(=O)OC(C)(C)C | C12H23NO3
